US08912169B2
Step 2: Synthesis of ethyl 2-(4-methylenecyclohexyl)acetate
To a cooled (0° C.) suspension of methyl triphenylphosphonium bromide (8.58 g, 23.5 mmol) in THF (60 mL) was added KOtBu (3.17 g, 28.3 mmol) in portions under N2. The reaction was slowly warmed to rt and stirred for 1 h. The resulting mixture was cooled to 0° C. and added a solution of ethyl 2-(4-oxocyclohexyl)acetate (2.9 g, 15.7 mmol) in THF (15 mL). The resulting mixture was stirred at RT for 2 h and at 50° C. overnight. After cooling to RT, the reaction was quenched by addition of saturated NH4Cl, extracted with EtOAc, washed with brine, dried over Na2SO4. Purification by flash column chromatography (eluent: 20% EtOAc in hexanes) gave the product as colorless oil (2.11 g, 73.7%).

reactant | KOtBu | 28.3 mmol, 3.17 g | CC(C)(C)[O-].[K+]
reactant | ethyl 2-(4-oxocyclohexyl)acetate | 15.7 mmol, 2.9 g | O=C1CCC(CC1)CC(=O)OCC | C10H16O3
catalyst | methyl triphenylphosphonium bromide | 23.5 mmol, 8.58 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | ethyl 2-(4-methylenecyclohexyl)acetate | 2.11 g, 73.7% | C=C1CCC(CC1)CC(=O)OCC | C11H18O2
